US04013697
Tetradecene (19.8 grams, 0.1 mole) and dimethylformamide (20 milliliters, 0.26 mole) dissolved in 100 milliliters of benzene were treated with a 1:6 volume to volume ratio mixture of dinitrogen tetroxide (9.2 grams, 0.1 mole) and oxygen at 10° C. over a period of four hours and the mixture was swept with oxygen for an additional 15 minutes. Calcium oxide (5.6 grams, 0.1 mole) was added to the cooled stirred mixture and after 30 minutes, the solid material (37.6 grams) was separated by filtration and 300 milliliters of water were added thereto. After one hour at reflux, the solution was cooled and acidified with 6N hydrochloric acid to precipitate 19.8 grams (92 percent yield) of tridecanoic acid.

reactant | Tetradecene | 0.1 mole, 19.8 grams | C=CCCCCCCCCCCCC | C14H28
reactant | dimethylformamide | 0.26 mole, 20 milliliters | CN(C=O)C | C3H7NO
reactant | dinitrogen tetroxide | 0.1 mole, 9.2 grams | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | oxygen | O=O | O2
reactant | Calcium oxide | 0.1 mole, 5.6 grams | [O-2].[Ca+2]
solvent | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
product | tridecanoic acid | 19.8 grams, 92 percent yield | C(CCCCCCCCCCCC)(=O)O | C13H26O2
